### PR TITLE
chore: squeeze a few non-terminal simps

### PR DESCRIPTION
**Pull request by grunweg**
Founds by the flexible linter in #28962.

---

- [x] depends on : #29027
- [x] depends on: #30106
- [x] depends on: #30091

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/LHopital.lean [hunk 1]
```diff
@@ -81,7 +81,7 @@ theorem lhopital_zero_right_on_Ioo (hab : a < b) (hff' : ∀ x ∈ Ioo a b, HasD
     apply eventually_nhdsWithin_of_forall
     intro x hx
     have := cmp x hx
-    try simp
+    simp
```
Comment (vlad902) [inline Mathlib/Analysis/Calculus/LHopital.lean]: I am confused by this one

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 2]
```diff
@@ -207,8 +207,8 @@ lemma MeromorphicAt.meromorphicTrailingCoeffAt_smul {f₁ : 𝕜 → 𝕜} {f₂
   have : f₁ • f₂ =ᶠ[𝓝[≠] x]
       fun z ↦ (z - x) ^ (meromorphicOrderAt (f₁ • f₂) x).untop₀ • (g₁ • g₂) z := by
     filter_upwards [h₃g₁, h₃g₂, self_mem_nhdsWithin] with y h₁y h₂y h₃y
-    simp_all [meromorphicOrderAt_smul hf₁ hf₂]
-    rw [← smul_assoc, ← smul_assoc, smul_eq_mul, smul_eq_mul, zpow_add₀ (sub_ne_zero.2 h₃y)]
+    simp_all [meromorphicOrderAt_smul hf₁ hf₂, ← smul_assoc, ← smul_assoc, smul_eq_mul,
```
Comment (vlad902) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: still non-terminal?

File: Mathlib/Analysis/Real/Pi/Irrational.lean [hunk 3]
```diff
@@ -124,7 +124,7 @@ private lemma recursion (n : ℕ) :
       2 * (n + 2) * (2 * n + 3) * I (n + 1) θ - 4 * (n + 2) * (n + 1) * I n θ := by
   rw [recursion' (n + 1)]
   simp
```
Comment (vlad902) [inline Mathlib/Analysis/Real/Pi/Irrational.lean]: ditto

File: Mathlib/Algebra/Field/GeomSum.lean [hunk 4]
```diff
@@ -64,8 +64,8 @@ lemma geom_sum_inv (hx1 : x ≠ 1) (hx0 : x ≠ 0) (n : ℕ) :
         inv_mul_cancel₀ hx0]
   rw [geom_sum_eq h₁, div_eq_iff_mul_eq h₂, ← mul_right_inj' h₃, ← mul_assoc, ← mul_assoc,
     mul_inv_cancel₀ h₃]
-  simp [mul_add, add_mul, mul_inv_cancel₀ hx0, mul_assoc, h₄, sub_eq_add_neg, add_comm,
-    add_left_comm]
+  simp only [inv_pow, sub_eq_add_neg, mul_add, one_mul, mul_neg, add_mul, mul_inv_cancel₀ hx0,
+    neg_mul, mul_assoc, mul_one, add_comm, neg_add_rev, neg_neg, h₄, add_left_comm]
   rw [add_comm _ (-x), add_assoc, add_assoc _ _ 1]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Field/GeomSum.lean:69]: Can you robustify by using `ring` or `simp [...]; ring` instead?

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean [hunk 5]
```diff
@@ -266,7 +266,7 @@ theorem cyclotomic_eval_lt_add_one_pow_totient {n : ℕ} {q : ℝ} (hn' : 3 ≤
   simp only [cyclotomic_eq_prod_X_sub_primitiveRoots hζ, eval_prod, eval_C, eval_X, eval_sub,
     nnnorm_prod, Units.mk0_prod]
   convert Finset.prod_lt_prod' (M := NNRealˣ) _ _
-  swap; · exact fun _ => Units.mk0 (Real.toNNReal (q + 1)) (by simp; linarith only [hq'])
+  swap; · exact fun _ => Units.mk0 (Real.toNNReal (q + 1)) (by simp; positivity)
```
Comment (vlad902) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean]: simp still not terminal.

File: Mathlib/Analysis/CStarAlgebra/SpecialFunctions/PosPart.lean [hunk 6]
```diff
@@ -63,7 +63,7 @@ lemma exists_sum_four_nonneg {A : Type*} [NonUnitalCStarAlgebra A] [PartialOrder
     fin_cases i
     all_goals
       constructor
-      · simp
+      · simp only [Fin.zero_eta, Fin.isValue, Matrix.cons_val_zero]
         cfc_tac
```
Comment (YaelDillies) [inline Mathlib/Analysis/CStarAlgebra/SpecialFunctions/PosPart.lean]: `cfc_tac` call `aesop`. Definitely flexible IMO!

File: Mathlib/Analysis/ODE/Gronwall.lean [hunk 7]
```diff
@@ -247,7 +247,7 @@ theorem ODE_solution_unique_of_mem_Icc_left
   have hv' : ∀ t ∈ Ico (-b) (-a), LipschitzOnWith K (Neg.neg ∘ (v (-t))) (s (-t)) := by
     intro t ht
     replace ht : -t ∈ Ioc a b := by
-      simp at ht ⊢
+      simp only [mem_Ico, mem_Ioc] at ht ⊢
       constructor <;> linarith
```
Comment (YaelDillies) [inline Mathlib/Analysis/ODE/Gronwall.lean:264]: Don't understand this one. `linarith` is flexible

File: Mathlib/Analysis/SpecialFunctions/Gaussian/FourierTransform.lean [hunk 8]
```diff
@@ -312,7 +312,10 @@ theorem integral_cexp_neg_mul_sq_norm_add_of_euclideanSpace
     left
     rw [sq_sqrt]
     exact Finset.sum_nonneg (fun i _hi ↦ by positivity)
-  · simp [PiLp.inner_apply, EuclideanSpace.measurableEquiv, Finset.mul_sum, mul_assoc]
+  · simp? [PiLp.inner_apply, EuclideanSpace.measurableEquiv, Finset.mul_sum, mul_assoc] says
+      simp only [EuclideanSpace.measurableEquiv, MeasurableEquiv.symm_mk, MeasurableEquiv.coe_mk,
+      WithLp.equiv_symm_apply, PiLp.inner_apply, PiLp.toLp_apply, RCLike.inner_apply, conj_trivial,
+      ofReal_sum, ofReal_mul, Finset.mul_sum, mul_assoc]
     simp_rw [mul_comm]
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Gaussian/FourierTransform.lean:319]: Does
```suggestion
  · simp [PiLp.inner_apply, EuclideanSpace.measurableEquiv, Finset.mul_sum, mul_assoc, mul_comm]
```
or
```suggestion
  · simp [PiLp.inner_apply, EuclideanSpace.measurableEquiv, Finset.mul_sum, mul_assoc, mul_comm some_pattern_here]
```
work?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean [hunk 9]
```diff
@@ -151,7 +151,9 @@ theorem arctan_eq_arcsin (x : ℝ) : arctan x = arcsin (x / √(1 + x ^ 2)) :=
 theorem arcsin_eq_arctan (h : x ∈ Ioo (-(1 : ℝ)) 1) :
     arcsin x = arctan (x / √(1 - x ^ 2)) := by
   rw_mod_cast [arctan_eq_arcsin, div_pow, sq_sqrt, one_add_div, div_div, ← sqrt_mul,
-    mul_div_cancel₀, sub_add_cancel, sqrt_one, div_one] <;> simp at h <;> nlinarith [h.1, h.2]
+    mul_div_cancel₀, sub_add_cancel, sqrt_one, div_one] <;>
+      simp only [Int.reduceNegSucc, Int.cast_neg, Int.cast_one, mem_Ioo] at h <;>
+      nlinarith [h.1, h.2]
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean:156]: `nlinarith` is flexible

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean [hunk 10]
```diff
@@ -321,7 +321,8 @@ theorem doubling_lt_three_halves (h : #(A * A) < (3 / 2 : ℚ) * #A) :
       (A : Set G) ⊆ a • H ∧ a •> (H : Set G) = H <• a := by
   let H := invMulSubgroup A h
   refine ⟨H, inferInstance, ?_, fun a ha ↦ ⟨?_, ?_⟩⟩
-  · simp [← Nat.card_eq_fintype_card, invMulSubgroup, ← coe_mul, - coe_inv, H]
+  · simp only [invMulSubgroup, ← coe_mul, Subgroup.mem_mk, Submonoid.mem_mk, Subsemigroup.mem_mk,
+      mem_coe, ← Nat.card_eq_fintype_card, H]
     rwa [Nat.card_eq_finsetCard, card_inv_mul_of_doubling_lt_three_halves h]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/VerySmallDoubling.lean:325]: Can you not incorporate the `rwa` below?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.lean [hunk 11]
```diff
@@ -223,7 +223,7 @@ lemma takeUntil_takeUntil {w x : V} (p : G.Walk u v) (hw : w ∈ p.support)
   | case1 u v h =>
     #adaptation_note
     /-- Prior to `nightly-2025-02-24` this was just `aesop`. -/
-    simp at h
+    simp only [support_nil, List.mem_cons, List.not_mem_nil, or_false] at h
     subst h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.lean]: Have you tried if `aesop` works again?

File: Mathlib/Data/Nat/Digits/Lemmas.lean [hunk 12]
```diff
@@ -60,8 +60,8 @@ theorem digits_len (b n : ℕ) (hb : 1 < b) (hn : n ≠ 0) : (b.digits n).length
 theorem digits_length_le_iff {b k : ℕ} (hb : 1 < b) (n : ℕ) :
     (b.digits n).length ≤ k ↔ n < b ^ k  := by
   by_cases h : n = 0
-  · simp [h]
-    positivity
+  · have : 0 < b ^ k := by positivity
+    simpa [h]
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Digits/Lemmas.lean:65]: `positivity` is flexible

File: Mathlib/GroupTheory/GroupAction/SubMulAction/OfStabilizer.lean [hunk 13]
```diff
@@ -185,7 +185,7 @@ theorem ofStabilizer.conjMap_bijective : Function.Bijective (conjMap hg) := by
 def ofStabilizer.snoc {n : ℕ} (x : Fin n ↪ ofStabilizer G a) :
     Fin n.succ ↪ α :=
   Fin.Embedding.snoc (x.trans (subtype _)) (a := a) (by
-    simp [Set.mem_range, trans_apply, not_exists]
+    simp only [Set.mem_range, trans_apply, Function.Embedding.subtype_apply, not_exists]
     exact fun i ↦ (x i).prop)
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/OfStabilizer.lean:189]: No `simpa using`?

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean [hunk 14]
```diff
@@ -328,7 +328,10 @@ theorem intervalIntegral_add_zsmul_eq (hf : Periodic f T) (n : ℤ) (t : ℝ)
   rcases n with n | n
   · simp [← this n]
   · conv_rhs => rw [negSucc_zsmul]
-    have h₀ : Int.negSucc n • T + (n + 1) • T = 0 := by simp; linarith
+    have h₀ : Int.negSucc n • T + (n + 1) • T = 0 := by
+      simp only [zsmul_eq_mul, Int.cast_negSucc, Nat.cast_add, Nat.cast_one, neg_add_rev,
+        nsmul_eq_mul]
+      linarith
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean:334]: `linarith` is flexible

File: Mathlib/NumberTheory/Zsqrtd/Basic.lean [hunk 15]
```diff
@@ -646,7 +646,7 @@ theorem le_arch (a : ℤ√d) : ∃ n : ℕ, a ≤ n := by
   refine ⟨x + d * y, h.trans ?_⟩
   change Nonneg ⟨↑x + d * y - ↑x, 0 - ↑y⟩
   rcases y with - | y
-  · simp
+  · simp only [Nat.cast_zero, mul_zero, add_zero, sub_self]
     trivial
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Zsqrtd/Basic.lean:702]: `trivial` is flexible(?)

File: Mathlib/Probability/ProbabilityMassFunction/Constructions.lean [hunk 16]
```diff
@@ -313,7 +313,7 @@ theorem support_bernoulli : (bernoulli p h).support = { b | cond b (p ≠ 0) (p
       ENNReal.coe_one, Bool.cond_prop, Set.mem_setOf_eq, Bool.false_eq_true, ite_false, not_iff_not]
     constructor
     · intro h'
-      simp [tsub_eq_zero_iff_le] at h'
+      simp only [tsub_eq_zero_iff_le, one_le_coe_iff] at h'
       exact eq_of_le_of_ge h h'
```
Comment (YaelDillies) [inline Mathlib/Probability/ProbabilityMassFunction/Constructions.lean:317]:
```suggestion
      refine eq_of_le_of_ge h ?_
      simpa using [tsub_eq_zero_iff_le] using h'
```
maybe?

File: Mathlib/Tactic/NormNum/Irrational.lean [hunk 17]
```diff
@@ -198,7 +198,7 @@ private theorem irrational_rpow_rat_rat_of_den {x y : ℝ} {x_num x_den y_num y_
     Irrational (x ^ y) := by
   rcases hx_isNNRat with ⟨hx_inv, hx_eq⟩
   apply Irrational.of_inv
-  rw [← Real.inv_rpow (by simp [hx_eq]; positivity)]
+  rw [← Real.inv_rpow (by simp only [hx_eq, invOf_eq_inv]; positivity)]
```
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/Irrational.lean:201]: `positivity` is flexible

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 18]
```diff
@@ -169,8 +169,9 @@ lemma hasProdLocallyUniformlyOn_of_of_forall_exists_nhds
 @[to_additive]
 lemma HasProdUniformlyOn.hasProdLocallyUniformlyOn (h : HasProdUniformlyOn f g {s}) :
     HasProdLocallyUniformlyOn f g s := by
-  simp [HasProdLocallyUniformlyOn, hasProdUniformlyOn_iff_tendstoUniformlyOn] at *
-  exact TendstoUniformlyOn.tendstoLocallyUniformlyOn h
+  simp only [hasProdUniformlyOn_iff_tendstoUniformlyOn, Set.mem_singleton_iff, forall_eq,
+    HasProdLocallyUniformlyOn] at *
+  exact h.tendstoLocallyUniformlyOn
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:174]: No `simpa using`?

**Review by YaelDillies — COMMENTED** [review]
I'm genuinely unconvinced this series of PRs is a good use of everybody's time. Out of the 49 files you are touching, I find that only 19 are unambiguously improved, and the other 30 seem to be made less maintainable. Your use of `says` is particularly problematic in a context where Kim is complaining that they often break on nightly-testing.

Some of these regressions. might be fixed by finding better proofs (cf suggestions) or easily ignored by declaring more tactics flexible, but overall I don't see a lot of added value in eradicating non-terminal simp calls. All we want is for them not to proliferate, but having a few here and there is 🤷 to me.

File: Mathlib/Tactic/NormNum/Irrational.lean (hunk 17 above)
Comment (grunweg) [reply Mathlib/Tactic/NormNum/Irrational.lean:201]: That's not true: the linter complained about this one.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean (hunk 14 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean:334]: It's not --- are you saying it should be?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean (hunk 9 above)
Comment (grunweg) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean:156]: Ditto

File: Mathlib/Tactic/NormNum/Irrational.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Tactic/NormNum/Irrational.lean:201]: But maybe the linter should be made not to complain 😅

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean:334]: Yes, I think it should be considered flexible by the linter

Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean:334]: Actually, let me retract my previous statement: linarith is clearly meant to be marked flexible --- but writing a test for that, the test fails. So apparently, that code is not working properly. Thank you for flagging it.

File: Mathlib/Tactic/NormNum/Irrational.lean (hunk 17 above)
Comment (grunweg) [reply Mathlib/Tactic/NormNum/Irrational.lean:201]: That one is actually not marked flexible yet --- but I can add it!

**Comment by grunweg** [comment]
I think declaring more tactics flexible is a useful outcome of this PR, whatever else happens, so let me pursue that first.

**Comment by grunweg** [comment]
I'm a bit surprised that we don't seem to care about non-terminal simps any more. If that is so, we should adjust our written policy.

I can personally get behind "in principle, we don't want non-terminal simps --- but if manually squeezing the simp (or similar) makes the code much less readable, we allow them as the lesser evil". Is that something *you* would be fine with?

**Comment by grunweg** [comment]
If so, my next proposal would be to enforce highlighting such places, such as by an `set_option linter.flexible false in`. In my experience, many non-terminal simps can be squeezed without great harm --- but a number of them are best ignored.

File: Mathlib/Analysis/Calculus/LHopital.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Analysis/Calculus/LHopital.lean]: it's inside an `all_goals`, so the `simp` might have been unnecessary for some of the cases

**Comment by grunweg** [comment]
Let's land #30106 and #30091 first, and then revisit if anything interesting remains.

File: Mathlib/Analysis/Calculus/LHopital.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/Calculus/LHopital.lean]:
```suggestion
    try simp
```

File: Mathlib/Analysis/CStarAlgebra/SpecialFunctions/PosPart.lean [hunk 19]
```diff
@@ -63,7 +63,7 @@ lemma exists_sum_four_nonneg {A : Type*} [NonUnitalCStarAlgebra A] [PartialOrder
     fin_cases i
     all_goals
       constructor
-      · simp
+      · simp only [Fin.zero_eta, Fin.isValue, Matrix.cons_val_zero]
```
Comment (grunweg) [inline Mathlib/Analysis/CStarAlgebra/SpecialFunctions/PosPart.lean]:
```suggestion
      · simp
```

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean]:
```suggestion
  swap; · exact fun _ => Units.mk0 (Real.toNNReal (q + 1)) (by simp; linarith only [hq'])
```
